US08530461B2
(S)—N-(1-{4-[3-(2-Fluoro-pyridin-4-yloxy)-azetidin-1-yl]-phenyl}-ethyl)-acetamide
1.0 g (4.3 mmol) (S)—N-{1-[4-(3-Hydroxy-azetidin-1-yl)-phenyl]-ethyl}-acetamide (V.1), 0.6 g (5.2 mmol) 2,4-difluoropyridine and 2.0 g (6.2 mmol) cesium carbonate are combined in 40 mL DMF and the mixture is stirred for 12 h at 80° C. Water is added and the mixture is extracted twice with ethylacetate. After concentration in vacuo the residue is purified by chromatography (silica; ethylacetate) to yield the desired product.

reactant | (S)—N-{1-[4-(3-Hydroxy-azetidin-1-yl)-phenyl]-ethyl}-acetamide | 4.3 mmol, 1.0 g | OC1CN(C1)C1=CC=C(C=C1)[C@H](C)NC(C)=O | C13H18N2O2
reactant | 2,4-difluoropyridine | 5.2 mmol, 0.6 g | FC1=NC=CC(=C1)F | C5H3F2N
reactant | cesium carbonate | 6.2 mmol, 2.0 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | Water | O | H2O
solvent | DMF | 40 mL | CN(C)C=O | C3H7NO
product | (S)—N-(1-{4-[3-(2-Fluoro-pyridin-4-yloxy)-azetidin-1-yl]-phenyl}-ethyl)-acetamide | FC1=NC=CC(=C1)OC1CN(C1)C1=CC=C(C=C1)[C@H](C)NC(C)=O | C18H20FN3O2
